US06043357
3-[N-t-Butoxycarbonyl-(S)-isoleucinyl]amino-1-bromopropane (U)
To a solution of Boc-isoleucine hemihydrate (2.4 g, 10 mmol) and BOP reagent (4.42 g, 10 mmol) in dry THF (50 ml) was added DIPEA (1.29 g, 10 mmol) and the solution stirred for five mins. 3-Bromopropylamine.HBr (2.4 g, 11 mmol) and DIPEA (1.56 g, 12 mmol) were then added to the solution. After 30 mins, the solvent was removed under vacuum, the residue redissolved in ethyl acetate (100 ml) and thoroughly washed with 1 M hydrochloric acid (4×50 ml), saturated sodium bicarbonate (2×50 ml), brine (1×50 ml), and dried over sodium sulphate. Purification by column chromatography (silica; 40% ethyl acetate in hexane (Rf =0.8)) provided the title compound (3.3 g, 94%) as a white solid. 1H NMR (CDCl3): δ 6.50 (br.s, 1H, NH), 5.15 (br.s, 1H, Ile-NH), 3.85 (m, 1H, Ile-αCH), 3.40 (m, 4H, NCH2, BrCH2), 2.05 (m, 2H, CH2), 1.85 (m, 1H, Ile-βCH), 1.40 (m, 10H, Ile-γCH & (CH3)3), 1.10 (m, 1H, Ile-γCH), 0.90 (d, J=6.82 Hz, 3, Ile-γCH3), 0.86 (t, J=7.73 Hz, 3H, Ile-δCH3); ISMS (M+H) 351/353.

reactant | Boc-isoleucine hemihydrate | 10 mmol, 2.4 g | O.C(=O)(OC(C)(C)C)N[C@@H]([C@@H](C)CC)C(=O)O.C(=O)(OC(C)(C)C)N[C@@H]([C@@H](C)CC)C(=O)O
reactant | BOP reagent | 10 mmol, 4.42 g | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 10 mmol, 1.29 g | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-Bromopropylamine | BrCCCN | C3H8BrN
reactant | HBr | 11 mmol, 2.4 g | Br | BrH
reactant | DIPEA | 12 mmol, 1.56 g | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 3-[N-t-Butoxycarbonyl-(S)-isoleucinyl]amino-1-bromopropane | 3.3 g, 94% | C(C)(C)(C)OC(=O)N[C@@H]([C@@H](C)CC)C(=O)NCCCBr | C14H27BrN2O3
